US06458844B2
To an ice cold solution of 2,4-dimethyl-3-pyridinecarboxylic acid (0.3 mmol, 45 mg) in dichloromethane (2 mL) containing one drop of DMF, was added oxalyl chloride (0.39 mmol, 49.5 mg) at 0° C. The reaction mixture was stirred for 30 min at this temperature, was allowed to warm to room temperature and was stirred for an additional 2 h. The solution was concentrated and the residue was dried under high vacuum. To a mixture of above acid chloride and 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester (0.2 mmol, 88 mg) in dichloromethane (3 mL) was added diisopropylethylamnine (1 mmol, 0.175 mL) at room temperature. After the solution had stirred for 15 h, TLC analysis of the mixture did not detect any starting material remaining. The solution was diluted with water (20 mL) and dichloromethane (20 mL) and the layers were separated. The aqueous phase was extracted with dichloromethane (10 mL) and the combined organic extracts were washed with brine (300 mL). The dried (MgSO4) solution was filtered and evaporated to dryness and the residual material was purified by RP-HPLC to obtain 74 mg (65%) of 4-[[(2,4-dimethylpyridin-3-yl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester as an amorphous colorless solid. HRMS: Obs. mass, 574.2389. Calcd. mass, 574.2409 (M+H).

reactant | 2,4-dimethyl-3-pyridinecarboxylic acid | 0.3 mmol, 45 mg | CC1=NC=CC(=C1C(=O)O)C | C8H9NO2
reactant | oxalyl chloride | 0.39 mmol, 49.5 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester | 0.2 mmol, 88 mg | COC([C@@H](NC(=S)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)N)=O | C21H32N2O4S2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[[(2,4-dimethylpyridin-3-yl)carbonyl]amino]-N-[[1-[4-(methylsulfonyl)butyl]cyclopentyl]thioxomethyl]-L-phenylalanine methyl ester | 74 mg, 65% | COC([C@@H](NC(=S)C1(CCCC1)CCCCS(=O)(=O)C)CC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1C)C)=O | C29H39N3O5S2
